US04071534
On the contrary, when a tertiary amine such as pyridine is mixed with dimethyl formamide and then chlorosulfonic acid is added to the mixture, dimethyl formamide-sulfur trioxide is formed as well as the case adding the tertiary amine to a mixture of dimethyl formamide and chlorosulfonic acid. When the mixture is used for the reaction of L-ascorbic acid in which the 5- and 6-positions are protected by a ketone or aldehyde the yield of the product is remarkably high and the product in the reaction mixture is crystallized in high degree.

reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
reactant | dimethyl formamide | CN(C=O)C | C3H7NO
product | dimethyl formamide sulfur trioxide | CN(C=O)C.S(=O)(=O)=O | InChI=1S/C3H7NO.O3S/c1-4(2)3-5;1-4(2)3/h3H,1-2H3;
